US09035073B2
(−)-3-(3-chloro-2-fluorophenyl)-3-methoxypyrrolidine
Preparation according to Example 1. (−)-1-benzyl-3-(3-chloro-2-fluorophenyl)-3-methoxypyrrolidine (0.82 g, 2.56 mmol), 1,2-dichloroethane (10 ml), 1-chloroethyl chloroformate (1.12 ml, 10.25 mmol) refluxed for 2 h, and methanol (20 ml) reflux 1 h. Purification by HPLC on waters OBD C18, 5 μm (MeOH/33 mM NH3, 20:80 to 50:50) gave the title compound (0.38 g, 65%). [a]D=−7.1° (methanol). The amine was converted to the oxalic acid salt and recrystallized from methanol/diethyl ether: M.p. 183-185° C. MS m/z (rel. intensity, 70 eV) 229 (M+, 1), 199 (87), 187 (bp), 157 (55), 133 (51).

reactant | (−)-1-benzyl-3-(3-chloro-2-fluorophenyl)-3-methoxypyrrolidine | 2.56 mmol, 0.82 g | C(C1=CC=CC=C1)N1CC(CC1)(OC)C1=C(C(=CC=C1)Cl)F | C18H19ClFNO
reactant | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
reactant | 1-chloroethyl chloroformate | 10.25 mmol, 1.12 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | methanol | 20 ml | CO | CH4O
product | (−)-3-(3-chloro-2-fluorophenyl)-3-methoxypyrrolidine | 0.38 g, 65% | ClC=1C(=C(C=CC1)C1(CNCC1)OC)F | C11H13ClFNO
